US04485107
A mixture of 7.4 parts of 7-(2-bromoethyl)-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one monohydrobromide, 6.6 parts of 4-(diphenylmethylene)piperidine hydrobromide, 12 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred and refluxed overnight. The reaction mixture was cooled, water was added and the layers were separated. The organic phase was dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product was filtered off and recrystallized from 2-propanol, yielding 5.5 parts (60%) of 7-[2-[4-(diphenylmethylene)-1-piperidinyl]ethyl]-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]-thiazin-6-one; mp. 176.0° C. (compound 104).

reactant | 7-(2-bromoethyl)-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]thiazin-6-one monohydrobromide | Br.BrCCC1=C(N=C2SCCCN2C1=O)C
reactant | 4-(diphenylmethylene)piperidine hydrobromide | Br.C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 7-[2-[4-(diphenylmethylene)-1-piperidinyl]ethyl]-3,4-dihydro-8-methyl-2H,6H-pyrimido[2,1-b][1,3]-thiazin-6-one | 60% | C1(=CC=CC=C1)C(=C1CCN(CC1)CCC1=C(N=C2SCCCN2C1=O)C)C1=CC=CC=C1 | C28H31N3OS
